US04322347
(2R,3S,5R,6R) 2-(N-Acetyl)carbamoyloxymethyl-6-amino-2-methylpenam-3-carboxylic Acid
To a prehydrogenated suspension of 10% palladium on carbon (0.83 gm), water-washed ethyl acetate (8.3 ml) and water (4.1 ml) was added (2R,3S,5R,6R) 2-(N-acetyl)carbamoyloxymethyl-6-amino-2-methylpenam-3-carboxylic acid p-nitrobenzyl ester (0.83 gm, 1.84 mmol). The mixture was shaken at 50 psi hydrogen pressure for 80 minutes and filtered through Dicalite-coated paper. The aqueous phase was separated, concentrated at reduced pressure to remove volatile solvent and gases, frozen and lyophilized. There was obtained 0.38 gm of the title compound as a white amorphous solid. Its nmr spectrum was consistent with the desired product.

reactant | (2R,3S,5R,6R) 2-(N-acetyl)carbamoyloxymethyl-6-amino-2-methylpenam-3-carboxylic acid p-nitrobenzyl ester | 1.84 mmol, 0.83 gm | [N+](=O)([O-])C1=CC=C(COC(=O)[C@H]2[C@](S[C@H]3N2C([C@H]3N)=O)(C)COC(NC(C)=O)=O)C=C1 | C18H20N4O8S
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.83 gm | [Pd] | Pd
solvent | water | O | H2O
product | (2R,3S,5R,6R) 2-(N-Acetyl)carbamoyloxymethyl-6-amino-2-methylpenam-3-carboxylic Acid | 0.38 gm | C(C)(=O)NC(=O)OC[C@@]1(S[C@H]2N([C@H]1C(=O)O)C([C@H]2N)=O)C | C11H15N3O6S
